US07816557B2
Step A. 4-[1-(4-Bromo-3,5-dimethyl-phenoxy)-2-methyl-propyl]-benzoic acid methyl ester
To a solution of 4-(1-hydroxy-2-methyl-propyl)-benzoic acid methyl ester (5000 mg, 24.04 mmol) in toluene (240 mL) is added 1,1′-(azodicarbonyl)dipiperidine (ADDP, 9098 mg, 36.06 mmol) at 0° C., followed by the additions of tributylphosphine (8.98 mL, 36.06 mmol) and 4-bromo-3,5-dimethyl-phenol (5798 mg, 28.85 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving the titled compound (5540 mg).

reactant | 4-(1-hydroxy-2-methyl-propyl)-benzoic acid methyl ester | 24.04 mmol, 5000 mg | COC(C1=CC=C(C=C1)C(C(C)C)O)=O | C12H16O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 36.06 mmol, 9098 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 36.06 mmol, 8.98 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-bromo-3,5-dimethyl-phenol | 28.85 mmol, 5798 mg | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
solvent | toluene | 240 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(4-Bromo-3,5-dimethyl-phenoxy)-2-methyl-propyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(C(C)C)OC1=CC(=C(C(=C1)C)Br)C)=O | C20H23BrO3
